US04205074
1-(Dithien-2-ylmethylene)quinolizidine methyl iodide
To a solution of 0.3 g. of 1-(dithien-2-ylmethylene)-quinolizidine in 5 ml. of anhydrous acetone was added 1 ml. of methyl iodide. The mixture was stirred at room temperature for 1 hr. The formed crystals were collected by filtration. By recrystallizing from isopropanol, 0.3 g. of light brown needles having a melting point of 284°-285° C. (decompd.) were obtained.

reactant | 1-(dithien-2-ylmethylene)-quinolizidine | S1C(=CC=C1)C(=C1CCCN2CCCCC12)C=1SC=CC1 | C18H21NS2
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 1-(Dithien-2-ylmethylene)quinolizidine methyl iodide | CI.S1C(=CC=C1)C(=C1CCCN2CCCCC12)C=1SC=CC1 | InChI=1S/C18H21NS2.CH3I/c1-2-10-19-11-3-6-14(15(19)7-1)18(16-8-4-12-20-16)17-9-5-13-21-17;1-2/h4-5,8-9,12-13,15H,1-3,6-7,10-11H2;1H3
